US07319104B2
2-Bromo-4-{2-[(4-ethylbenzyl)(5-ethylpyrimidin-2-yl)amino]ethyl}phenol
Similarly prepared from N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine and 4-ethyl benzyl bromide.

reactant | N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine | BrC=1C=C(C=CC1OC)CCNC1=NC=C(C=N1)CC | C15H18BrN3O
reactant | 4-ethyl benzyl bromide | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
product | 2-Bromo-4-{2-[(4-ethylbenzyl)(5-ethylpyrimidin-2-yl)amino]ethyl}phenol | BrC1=C(C=CC(=C1)CCN(C1=NC=C(C=N1)CC)CC1=CC=C(C=C1)CC)O | C23H26BrN3O
